data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3290,3728,[CH3:10][C:11](=[O:12])[C:13]#[N+:14][N-:15][C:16]#[N:17].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:13]([C:11]([CH3:10])=[O:12])=[N:14][N:15]1[C:16]#[N:17],water,298.15,12.628603752696336,-35.46447425076618
5098,5787,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)=[N+:18]([CH3:19])[C-:20]([C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[N:18]([CH3:19])[C:20]1([C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,37.52243427914947,-8.327287568274986
1474,1628,[CH3:17][C-:18]([CH3:19])[NH+:20]=[CH:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][CH:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([CH:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)[CH2:13][CH2:14][CH2:15][CH2:16]1)[CH:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[NH:20][C:18]2([CH3:17])[CH3:19],water,298.15,7.812051587699537,-49.98429245165368
2549,2829,[CH3:23][O:24][C:25](=[O:26])[C:27](=[O+:28][O-:29])[C:30]([CH3:31])=[O:32].[F:1][C:2]1([Br:3])[C:4]#[C:5][C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[CH2:19][CH2:20][CH2:21][CH2:22]1>>[F:1][C:2]1([Br:3])[C:4]2=[C:5]([C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([c:13]3[cH:14][cH:15][cH:16][cH:17][cH:18]3)[CH2:19][CH2:20][CH2:21][CH2:22]1)[O:29][O:28][C:27]2([C:25]([O:24][CH3:23])=[O:26])[C:30]([CH3:31])=[O:32],water,298.15,10.001380892753753,-57.33000393997669
2641,2928,[CH3:1][O:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([C:9]([F:10])([F:11])[F:12])([C:13]([F:14])([F:15])[F:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][NH:22][C:23](=[O:24])[C:25]([CH3:26])=[O+:27][C-:28]([C:29]([CH3:30])=[O:31])[C:32](=[O:33])[O:34][CH3:35]>>[CH3:1][O:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([C:9]([F:10])([F:11])[F:12])([C:13]([F:14])([F:15])[F:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:25]([C:23]([NH:22][CH3:21])=[O:24])([CH3:26])[O:27][C:28]2([C:29]([CH3:30])=[O:31])[C:32](=[O:33])[O:34][CH3:35],water,298.15,15.689676387143896,-56.056146963748105
3893,4453,[CH3:9][NH:10][C:11](=[O:12])[CH:13]=[NH+:14][C-:15]([CH3:16])[C:17](=[O:18])[O:19][CH3:20].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:15]([CH3:16])([C:17](=[O:18])[O:19][CH3:20])[NH:14][CH:13]1[C:11]([NH:10][CH3:9])=[O:12],water,298.15,19.13515894712648,-26.88307775941257
3198,3611,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[CH:10]#[N+:11][N-:12][C:13](=[O:14])[O:15][CH3:16]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[CH:10]=[N:11][N:12]1[C:13](=[O:14])[O:15][CH3:16],water,298.15,19.5963221094243,-35.156589986133284
971,1055,[CH2:13]=[NH+:14][C-:15]([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[CH2:13][NH:14][C:15]2([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,13.950592828451107,-20.437238608560023
769,831,[CH3:13][NH:14][C:15](=[O:16])[CH:17]=[N+:18]([CH3:19])[C-:20]([CH3:21])[CH3:22].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:20]([CH3:21])([CH3:22])[N:18]([CH3:19])[CH:17]2[C:15]([NH:14][CH3:13])=[O:16],water,298.15,23.485209653131427,-17.74147602134415
3259,3682,[CH2:1]=[CH2:2].[CH3:3][O:4][C:5](=[O:6])[C:7]([C:8]([CH3:9])=[O:10])=[N+:11]([CH3:12])[N-:13][C:14]([CH3:15])=[O:16]>>[CH2:1]1[CH2:2][N:13]([C:14]([CH3:15])=[O:16])[N:11]([CH3:12])[C:7]1([C:5]([O:4][CH3:3])=[O:6])[C:8]([CH3:9])=[O:10],water,298.15,15.45860727424259,-32.35842323127035
3228,3644,[CH3:10][N-:11][N+:12]#[C:13][C:14]([CH3:15])=[O:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:13]([C:14]([CH3:15])=[O:16])=[N:12][N:11]1[CH3:10],water,298.15,18.2393955873417,-33.97797790186513
4192,4796,[CH3:10][O:11][C:12](=[O:13])[C:14](=[O+:15][NH-:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[NH:16][O:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,7.708810021867013,-38.90311048683585
